US07291631B2
{4-[(1H-benzoimidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester
2-Chloromethylbenzimidazole (19.81 g, 118.9 mmol) was added as a solid to a mechanically stirred and cooled (1.2° C. internal temperature) solution of (4-amino-butyl)-carbamic acid tert-butyl ester (56.0 g, 297.3 mmol) and DIPEA (51.8 mL, 297.3 mmol) in CH3CN (3 L) under N2. After 4.5 h at low temperature the cooling bath was removed and the mixture was concentrated in vacuo. The residue was taken up in CH2Cl2 (1.5 L) and washed with brine (1 L). The aqueous layer was extracted with CH2Cl2 (2×500 mL) and the combined organic layers were dried over MgSO4 and concentrated in vacuo to afford a yellow foamy solid. Purification by column chromatography on silica gel (CH2C2/MeOH/NH4OH (98:1:1) to CH2Cl2/MeOH/NH4OH (80:10:10)) afforded product containing mixed fractions. Repurification of these fractions by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH (98:3:3)) afforded the title compound as a yellow solid (16.5 g, 44%). 1H NMR (CDCl3) δ 1.50 (s, 9H), 1.60-1.64 (m, 4H), 2.70-2.74 (m, 2H), 3.10-3.18 (m, 2H), 4.13 (s, 2H), 4.86 (s, 1H), 7.19-7.25 (m, 2H), 7.50-7.95 (m, 2H), 10.4 (bs, 1H); 13C NMR (CDCl3) δ 26.1, 27.3, 28.1, 39.7, 41.2, 47.2, 47.7, 48.3, 49.4, 78.9, 121.7, 153.9, 155.9; ES-MS m/z 319 (M+H). Anal Calcd. For C17H26N4O2.0.2(H2O): C, 63.41; H, 8.26; N, 17.40. Found: C, 63.51; H, 8.19; N, 17.33.

reactant | 2-Chloromethylbenzimidazole | 118.9 mmol, 19.81 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | 297.3 mmol, 56.0 g | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | DIPEA | 297.3 mmol, 51.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 3 L | CC#N | C2H3N
product | {4-[(1H-benzoimidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 16.5 g, 44% | C(C)(C)(C)OC(NCCCCNCC1=NC2=C(N1)C=CC=C2)=O | C17H26N4O2
